* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : AOI21X1                                      *
* Netlisted  : Tue Dec 21 06:02:52 2021                     *
* PVS Version: 16.15-s010 Fri Jun 28 22:24:07 PDT 2019      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(nmos3) _nmos1v _soi_nd(D) poly_conn(G) _soi_nsb(S) _soi_nsb(B)
*.DEVTMPLT 1 MP(pmos3) _pmos1v _soi_pd(D) poly_conn(G) _soi_psb(S) _soi_psb(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos3_CDNS_2                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos3_CDNS_2 2 3 4
** N=4 EP=3 FDC=1
M0 3 4 2 2 nmos3 L=1e-06 W=4e-06 AD=1e-11 AS=0 PD=1.3e-05 PS=0 fw=4e-06 sa=2e-06 sb=2e-06 $X=7000 $Y=2000 $dt=0
.ends nmos3_CDNS_2

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos3_CDNS_3                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos3_CDNS_3 2 3 4
** N=5 EP=3 FDC=1
M0 3 4 2 2 pmos3 L=1e-06 W=8e-06 AD=2e-11 AS=0 PD=2.1e-05 PS=0 fw=8e-06 sa=2e-06 sb=2e-06 $X=7000 $Y=2000 $dt=1
.ends pmos3_CDNS_3

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos3_CDNS_4                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos3_CDNS_4 2 3 4
** N=4 EP=3 FDC=1
M0 3 4 2 2 nmos3 L=1e-06 W=2e-06 AD=5e-12 AS=0 PD=9e-06 PS=0 fw=2e-06 sa=2e-06 sb=2e-06 $X=7000 $Y=2000 $dt=0
.ends nmos3_CDNS_4

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: AOI21X1                                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt AOI21X1 A0 A1 B0 VDD! VSS! Y
** N=10 EP=6 FDC=6
X3 VSS! 6 A1 nmos3_CDNS_2 $T=32000 4000 1 180 $X=16000 $Y=4000
X4 6 Y A0 nmos3_CDNS_2 $T=48000 4000 1 180 $X=32000 $Y=4000
X5 VDD! 9 B0 pmos3_CDNS_3 $T=16000 60000 0 180 $X=0 $Y=38000
X6 9 Y A1 pmos3_CDNS_3 $T=16000 60000 1 0 $X=16000 $Y=38000
X7 9 Y A0 pmos3_CDNS_3 $T=48000 60000 0 180 $X=32000 $Y=38000
X8 VSS! Y B0 nmos3_CDNS_4 $T=16000 4000 1 180 $X=0 $Y=4000
.ends AOI21X1
