* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : DECAP4                                       *
* Netlisted  : Thu Nov 18 07:47:22 2021                     *
* PVS Version: 16.15-s010 Fri Jun 28 22:24:07 PDT 2019      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(nmos3) _nmos1v _soi_nd(D) poly_conn(G) _soi_nsb(S) _soi_nsb(B)
*.DEVTMPLT 1 MP(pmos3) _pmos1v _soi_pd(D) poly_conn(G) _soi_psb(S) _soi_psb(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos3_CDNS_2                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos3_CDNS_2 2 3
** N=4 EP=2 FDC=1
M0 2 3 2 2 pmos3 L=1e-06 W=8e-06 AD=2e-11 AS=0 PD=2.1e-05 PS=0 fw=8e-06 sa=2e-06 sb=2e-06 $X=7000 $Y=2000 $dt=1
.ends pmos3_CDNS_2

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos3_CDNS_3                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos3_CDNS_3 2 3
** N=3 EP=2 FDC=1
M0 2 3 2 2 nmos3 L=1e-06 W=8e-06 AD=2e-11 AS=0 PD=2.1e-05 PS=0 fw=8e-06 sa=2e-06 sb=2e-06 $X=7000 $Y=2000 $dt=0
.ends nmos3_CDNS_3

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: DECAP4                                          *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt DECAP4 VDD! VSS!
** N=4 EP=2 FDC=8
X2 VDD! VSS! pmos3_CDNS_2 $T=33000 67400 0 180 $X=17000 $Y=45400
X3 VDD! VSS! pmos3_CDNS_2 $T=49000 67400 0 180 $X=33000 $Y=45400
X4 VDD! VSS! pmos3_CDNS_2 $T=65000 67400 0 180 $X=49000 $Y=45400
X5 VDD! VSS! pmos3_CDNS_2 $T=81000 67400 0 180 $X=65000 $Y=45400
X6 VSS! VDD! nmos3_CDNS_3 $T=33000 5400 1 180 $X=17000 $Y=5400
X7 VSS! VDD! nmos3_CDNS_3 $T=49000 5400 1 180 $X=33000 $Y=5400
X8 VSS! VDD! nmos3_CDNS_3 $T=65000 5400 1 180 $X=49000 $Y=5400
X9 VSS! VDD! nmos3_CDNS_3 $T=81000 5400 1 180 $X=65000 $Y=5400
.ends DECAP4
